US06441017B1
Step A: (R)-3-(tert-Butoxycarbonylamino)-1-(3-hydroxybenzoyl)pyrrolidine
3-Hydroxybenzoic acid (500 mg, 3.62 mmol), (R)-3-(tert-butoxycarbonylamino)pyrrolidine (708 mg, 3.80 mmol), EDC (729 mg, 3.80 mmol), 1-hydroxybenzotriazole hydrate (514 mg, 3.80 mmol), and N,N-diisopropylethylamine (631 mL, 3.62 mmol) were combined in DMF (20 mL) and the mixture was stirred at ambient temperature for 18 hours. The solvent was removed under reduced pressure and the residue was partitioned between saturated aqueous NaHCO3 (25 mL) and CH2Cl2 (50 mL). The aqueous layer was extracted further with CH2Cl2 (2×25 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with CH2Cl2—3% MeOH—0.3% NH4OH to yield the titled product as a white foam.

reactant | 3-Hydroxybenzoic acid | 3.62 mmol, 500 mg | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | (R)-3-(tert-butoxycarbonylamino)pyrrolidine | 3.80 mmol, 708 mg | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
reactant | EDC | 3.80 mmol, 729 mg
reactant | 1-hydroxybenzotriazole hydrate | 3.80 mmol, 514 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 3.62 mmol, 631 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (R)-3-(tert-Butoxycarbonylamino)-1-(3-hydroxybenzoyl)pyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C(C1=CC(=CC=C1)O)=O | C16H22N2O4
